US07501421B2
Preparation of 4-[5-(1-naphthylsulfanyl)benzoxazol-2-yl]piperazine-1-carboxylic acid benzyl ester
A mixture of 4-(5-iodobenzoxazol-2-yl)piperazine-1-carboxylic acid benzyl ester, prepared in Example 2 (1.48 mmol theory), 1-napthalenethiol (0.237 g, 1.48 mmol), CuI (0.042 g, 0.22 mmol), and K2CO3 (0.409 g, 2.96 mmol) in isopropanol was heated at 90° C. overnight, diluted with 20% MeOH in CH2Cl2, and filtered through a pad of silica gel. The filtrate was concentrated to dryness. The resultant residue was purified by chromatography with 5% MeOH in CH2Cl2 to provide the title compound (230 mg, 31% overall yield from 4-benzoxazol-2-yl-piperazine-1-carboxylic acid benzyl ester), characterized by NMR and mass spectral analyses.

reactant | 4-(5-iodobenzoxazol-2-yl)piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1OC2=C(N1)C=C(C=C2)I | C19H18IN3O3
reactant | 1-napthalenethiol | 1.48 mmol, 0.237 g | C1(=CC=CC2=CC=CC=C12)S | C10H8S
reactant | K2CO3 | 2.96 mmol, 0.409 g | C(=O)([O-])[O-].[K+].[K+]
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | CuI | 0.22 mmol, 0.042 g | [Cu]I
product | 4-[5-(1-naphthylsulfanyl)benzoxazol-2-yl]piperazine-1-carboxylic acid benzyl ester | 230 mg, 31% | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1OC2=C(N1)C=C(C=C2)SC2=CC=CC1=CC=CC=C21 | C29H25N3O3S
